US04010177
In the manner given in Preparation 29, 8-fluoro-1-(chloromethyl)-6-(o-fluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine is treated with ethyl(cyclopropylmethyl)amine to give 8-fluoro-1-[[(cyclopropylmethyl)ethylamino]methyl]-6-(o-fluorophenyl)-4-H-s-triazolo[4,3-a][1,4]benzodiazepine. Preparation 36 9-(Trifluoromethyl)-1-[[(cyclopropylmethyl)methylamino]methyl]-6-phenyl-4-H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | 8-fluoro-1-(chloromethyl)-6-(o-fluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3)F)C1 | C17H11ClF2N4
reactant | ethyl(cyclopropylmethyl)amine | C(C)NCC1CC1 | C6H13N
product | 8-fluoro-1-[[(cyclopropylmethyl)ethylamino]methyl]-6-(o-fluorophenyl)-4-H-s-triazolo[4,3-a][1,4]benzodiazepine | FC=1C=CC2=C(C(=NCC=3N2C(=NN3)CN(CC)CC3CC3)C3=C(C=CC=C3)F)C1 | C23H23F2N5
